US04011225
2-Phenyl-8-cyano-5,6,7,8-tetrahydroquinoline (2 g.) was dissolved in pyridine (5 ml.) and triethylamine (1.3 ml.) and the solution treated with H2S gas for 6 hours and the reaction mixture allowed to stand at room temperature for 12 hours. The solvent was removed and the residual oil dissolved in dilute HCl, extracted with ether (2 × 50 ml.) and the extracts discarded. The aqueous solution was made basic and extracted into chloroform (3 × 50 ml.). The combined extracts were dried and evaporated in vacuo to give 2-phenyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide which was dissolved in ethanol (5 ml.), diluted with ether (25 ml.) and the solution saturated with HCl gas. The solvent was removed in vacuo and the residual solid recrystallised from methanol-ether giving hydrochloride of the title compound as colourless needles mpt. 211° C. Found: C, 63.41; H, 5.70; N, 8.94%. C16H16N2S. HCl requires: C, 63.04; H, 5.62; N, 9.19 %.

reactant | 2-Phenyl-8-cyano-5,6,7,8-tetrahydroquinoline | 2 g | C1(=CC=CC=C1)C1=NC=2C(CCCC2C=C1)C#N | C16H14N2
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | H2S | S | H2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-phenyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | C1(=CC=CC=C1)C1=NC=2C(CCCC2C=C1)C(N)=S | C16H16N2S
